US07179934B2
Methanesulfonic acid (S)-2-ethyl-pentyl ester
To a −10° C. stirred solution of (S)-2-ethyl-pentan-1-ol (1.30 g, 11.2 mmol) in dry CH2Cl2 (35 mL) was added Et3N (2.33 mL, 16.8 mmol). The reaction was stirred at this temperature for 15 minutes and methansulfonyl chloride (0.952 mL, 12.3 mmol) was added. The reaction was allowed to warm to room temperature overnight with good stirring. The reaction was washed with 1N HCl (3×30 mL), sat. NaHCO3 (3×30 mL), and brine (2×30 mL). The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure to give a quantitative yield of crude product.

reactant | (S)-2-ethyl-pentan-1-ol | 11.2 mmol, 1.30 g | C(C)[C@H](CO)CCC | C7H16O
reactant | Et3N | 16.8 mmol, 2.33 mL | CCN(CC)CC | C6H15N
reactant | methansulfonyl chloride | 12.3 mmol, 0.952 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid (S)-2-ethyl-pentyl ester | quantitative yield | C(C)[C@H](COS(=O)(=O)C)CCC | C8H18O3S
